US08703805B2
A mixture of 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol (169 mg, 0.5 mmol), 3-methylsulfonylphenylboronic acid (200 mg, 1 mmol), Cu(OAc)2 (181 mg, 1 mmol), and NEt3 (35 μL, 2.5 mmol) and molecule sieves (4A) in DCM was shaken overnight at 20° C. Solid was removed by filtration and filtrate was evaporated to give a crude, which was purified by column chromatography on silica gel eluting with EtOAc-hexane (1:4 to 1:2) to afford 1-(2-chlorophenyl)-5-(4-{[3-(methylsulfonyl)phenyl]oxy}phenyl)-3-(trifluoromethyl)-1H-pyrazole (88 mg). 1H-NMR: CDCl3: 7.68 (m, 1H), 7.55 (m, 2H), 7.48 (m, 1H), 7.62-7.40 (m, 2H), 7.27 (m, 2H), 7.21 (m, 1H), 6.93 (m, 1H), 6.80 (s, 1H), 3.04 (s, 3H), MS(ES): 493 [M+H]+.

reactant | 4-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol | 0.5 mmol, 169 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)O)C(F)(F)F | C16H10ClF3N2O
reactant | 3-methylsulfonylphenylboronic acid | 1 mmol, 200 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | NEt3 | 2.5 mmol, 35 μL | CCN(CC)CC | C6H15N
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 1 mmol, 181 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 1-(2-chlorophenyl)-5-(4-{[3-(methylsulfonyl)phenyl]oxy}phenyl)-3-(trifluoromethyl)-1H-pyrazole | 88 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(C=C1)OC1=CC(=CC=C1)S(=O)(=O)C)C(F)(F)F | C23H16ClF3N2O3S
